US09169254B2
2-[2-(2-Methylamino-ethoxy)-ethoxy]-ethanol was dissolved in THF (6.88 mL)-water (6.88 mL). Di-tert-butyl dicarbonate (9.01 g, 41.3 mmol) and potassium carbonate (5.71 g, 41.3 mmol) were added at 0° C., and the mixture was stirred at room temperature for 15 hours. A 1 M aqueous hydrochloric acid solution was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and saturated brine, and then dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give {2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethyl}-methyl-carbamic acid tert-butyl ester (1.53 g, 42%).

reactant | 2-[2-(2-Methylamino-ethoxy)-ethoxy]-ethanol | CNCCOCCOCCO | C7H17NO3
reactant | Di-tert-butyl dicarbonate | 41.3 mmol, 9.01 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 41.3 mmol, 5.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 6.88 mL | C1CCOC1 | C4H8O
solvent | water | 6.88 mL | O | H2O
product | {2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethyl}-methyl-carbamic acid tert-butyl ester | 1.53 g, 42% | C(C)(C)(C)OC(N(C)CCOCCOCCO)=O | C12H25NO5
